US07012075B2
To an ice cold solution of ethyl 4-methyl-4-pentenoate (1.11 g, 7.8 mmol) in 0.5 M diazomethane in Et2O, was added palladium(II) acetate by portionwise addition (4 portions of 5 mg each were added in 15 min intervals). A total of 4 portions were added. The reaction mixture was filtered on a pad of celite and concentrated under 60 mm Hg with gentle warming. This crude product was treated a second time with diazomethane and palladium(II) acetate, filtered and concentrated. The resulting oil was filtered on a pad of florisil (60–100 mesh), washed with Et2O (2×10 mL), concentrated under 60 mm Hg to give ethyl 3-(1-methylcyclopropyl)propanoate as a colorless oil.

reactant | ethyl 4-methyl-4-pentenoate | 7.8 mmol, 1.11 g | CC(CCC(=O)OCC)=C | C8H14O2
reactant | diazomethane | 0.5 M | [N+](=[N-])=C | CH2N2
solvent | Et2O | CCOCC | C4H10O
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 3-(1-methylcyclopropyl)propanoate | CC1(CC1)CCC(=O)OCC | C9H16O2
